US06670372B2
2-(1H-Imidazo[4,5-c]quinolin-1-yl)ethanol (1.5 g, 7.0 mmol) was added to a stirring mixture of a-bromo-p-tolunitrile (1.79 g, 9.1 mmol), sodium hydroxide (20 ml, 50%), dichloromethane (20 ml), and benzyltrimethylammonium chloride (0.06 g, 0.3 mmol). The reaction was maintained for 18 hours and then diluted with dichloromethane (20 ml) and water (20 ml). The two phases were separated and the aqueous fraction was extracted with additional dichloromethane. The organic fractions were combined, washed with water, dried (MgSO4), filtered, and concentrated. The residue was purified by flash column chromatography (silica gel, 9/1 dichloromethane/methanol) to provide 1.8 g of 4-{[2-(1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]methyl}benzonitrile.

reactant | 2-(1H-Imidazo[4,5-c]quinolin-1-yl)ethanol | 7.0 mmol, 1.5 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCO | C12H11N3O
reactant | a-bromo-p-tolunitrile | 9.1 mmol, 1.79 g | C1=CC(=CC=C1CBr)C#N | C8H6BrN
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | benzyltrimethylammonium chloride | 0.3 mmol, 0.06 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-{[2-(1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]methyl}benzonitrile | 1.8 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCOCC2=CC=C(C#N)C=C2 | C20H16N4O
